US05736548
A mixture of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (2.7 g, 0.124 mol), 3-(4-pyridinylmethoxy)benzaldehyde (3.95 g, 0.0185 mol) and xylenes (100 ml) was refluxed overnight. Additional carboxamide (1 g) was added and the mixture was refluxed for another 2 days. 10% palladium on carbon (1 g) was added and the mixture was refluxed for another 3 hours. The catalyst was removed by filtration, the filtrate was concentrated in vacuo and the solid residue was collected by filtration. Additional product was obtained by concentration of the mother liquors and the combined product fractions were recrystallized from ethyl acetate to afford 1.66 g of 1-cyclopentyl-3-ethyl-6-[3-[4-pyridinylmethoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one, m.p. 230°-232° C.

reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 0.124 mol, 2.7 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 3-(4-pyridinylmethoxy)benzaldehyde | 0.0185 mol, 3.95 g | N1=CC=C(C=C1)COC=1C=C(C=O)C=CC1 | C13H11NO2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 1-cyclopentyl-3-ethyl-6-[3-[4-pyridinylmethoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one | 1.66 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC(=CC=C2)OCC2=CC=NC=C2)CC | C24H25N5O2
